Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7]=[C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],2.8412270794200003
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7].[O:8][H:9],4.72159495345
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],1.99012553796
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7][H:8].[H:9],4.56427849586
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[H:1][C:2]#[C:3],6.05544921159
[H:1][C:2]([H:3])[C:4]1=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]1=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],0.806236370359
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:4][C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3][C:9]([H:10])([H:11])[O:12][H:13],5.67073399799
[H:11].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.82931217615
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9]([H:10])[H:11],1.88163942042
[H:10].[H:1][O:2][C:3][C:4]([C:5][O:6][H:7])=[C:8][H:9]>>[H:1][O:2][C:3][C:4]([C:5][O:6][H:7])=[C:8]([H:9])[H:10],-4.98171542633
[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][H:7]>>[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6].[H:7],6.00608070796
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],7.32075377355
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-1.42565219357
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[H:4],0.78458818619
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[O:7],2.1336223956
[H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-1.90279400582
[C:1]#[C:2].[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],-7.01147853774
[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])[O:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[O:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-0.528033992461
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10]>>[C:9][H:10].[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7][H:8],7.495091730549999
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9]>>[C:6]([H:7])[O:8][H:9].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.0208429175799998
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])(=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2],2.70813536027
[H:1][C:2]([H:3])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-1.86064560472
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.73916600137
[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1]/[C:2](=[C:3](/[H:4])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:5],1.7720417420099996
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-1.77616703594
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8].[O:9]=[C:10][C:11]([H:12])([H:13])[H:14],0.8888998507089999
[H:1][C:2][O:3][C:4]([H:5])[H:6].[O:7][H:8]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][H:8],-5.40959364698
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],6.7803612716
[C:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9]>>[C:1].[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9],5.04091712115
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][H:8]>>[H:5].[O:1]=[C:2]([H:3])[C:4]#[C:6][O:7][H:8],2.5377126743400003
